### PR TITLE
[Merged by Bors] - feat: define `IsKolmogorovProcess`

### PR DESCRIPTION
**Pull request by RemyDegenne**
A stochastic process `X : T → Ω → E` on an index space `T` and a measurable space `Ω` with measure `P` is said to satisfy the Kolmogorov condition with exponents `p, q` and constant `M` if for all `s, t : T`, the pair `(X s, X t)` is measurable for the Borel sigma-algebra on `E × E` and the following condition holds:
`∫⁻ ω, edist (X s ω) (X t ω) ^ p ∂P ≤ M * edist s t ^ q`.

This is the main assumption of the Kolmogorov-Chentsov theorem, which gives the existence of a continuous modification of the process.

From the Brownian motion project.

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Probability/Process/Kolmogorov.lean [hunk 1]
```diff
@@ -0,0 +1,193 @@
...
+def IsAEKolmogorovProcess (X : T → Ω → E) (P : Measure Ω) (p q : ℝ) (M : ℝ≥0) : Prop :=
+  ∃ Y, IsKolmogorovProcess Y P p q M ∧ ∀ t, X t =ᵐ[P] Y t
+
+lemma IsKolmogorovProcess.IsAEKolmogorovProcess (hX : IsKolmogorovProcess X P p q M) :
+    IsAEKolmogorovProcess X P p q M := ⟨X, hX, by simp⟩
+
+namespace IsAEKolmogorovProcess
+
+/-- A process with the property `IsKolmogorovProcess` such that `∀ t, X t =ᵐ[P] h.mk X t`. -/
+noncomputable
```
Comment (EtienneC30) [inline Mathlib/Probability/Process/Kolmogorov.lean]:
```suggestion
protected noncomputable
```

File: Mathlib/Probability/Process/Kolmogorov.lean [hunk 2]
```diff
@@ -0,0 +1,193 @@
...
+def mk (X : T → Ω → E) (h : IsAEKolmogorovProcess X P p q M) : T → Ω → E :=
+  Classical.choose h
+
+@[measurability]
```
Comment (EtienneC30) [inline Mathlib/Probability/Process/Kolmogorov.lean]: Why did you put this tag?

File: Mathlib/Probability/Process/Kolmogorov.lean [hunk 3]
```diff
@@ -0,0 +1,193 @@
...
+section Measurability
+
+lemma IsKolmogorovProcess.stronglyMeasurable_edist
+    (hX : IsKolmogorovProcess X P p q M) {s t : T} :
+    StronglyMeasurable (fun ω ↦ edist (X s ω) (X t ω)) := by
+  have h_str : StronglyMeasurable[borel (E × E)] (fun p : E × E ↦ edist p.1 p.2) := by
+    refine @Continuous.stronglyMeasurable _ _ (borel (E × E)) _ ?_ _ _ _ _ continuous_edist
+    refine @BorelSpace.opensMeasurable _ _ (borel (E × E)) ?_
+    exact @BorelSpace.mk _ _ (borel (E × E)) rfl
+  exact h_str.comp_measurable (hX.measurablePair s t)
```
Comment (EtienneC30) [inline Mathlib/Probability/Process/Kolmogorov.lean]:
```suggestion
  borelize (E × E)
  exact continuous_edist.stronglyMeasurable.comp_measurable (hX.measurablePair s t)
```

File: Mathlib/Probability/Process/Kolmogorov.lean [hunk 4]
```diff
@@ -0,0 +1,193 @@
...
+lemma IsAEKolmogorovProcess.aemeasurable_edist (hX : IsAEKolmogorovProcess X P p q M) {s t : T} :
+    AEMeasurable (fun ω ↦ edist (X s ω) (X t ω)) P := hX.aestronglyMeasurable_edist.aemeasurable
+
+variable [MeasurableSpace E] [BorelSpace E]
+
+lemma IsKolmogorovProcess.measurable (hX : IsKolmogorovProcess X P p q M) (s : T) :
+    Measurable (X s) := by
+  have : Measurable[borel (E × E), _] (Prod.fst : E × E → E) :=
+    measurable_fst.mono prod_le_borel_prod le_rfl
+  exact @Measurable.comp Ω (E × E) E _ (borel (E × E)) _ _ _ this (hX.measurablePair s s)
```
Comment (EtienneC30) [inline Mathlib/Probability/Process/Kolmogorov.lean]:
```suggestion
    Measurable (X s) :=
  (measurable_fst.mono prod_le_borel_prod le_rfl).comp (hX.measurablePair s s)
```

File: Mathlib/Probability/Process/Kolmogorov.lean [hunk 5]
```diff
@@ -0,0 +1,193 @@
...
+  filter_upwards [hX.ae_eq_mk s] with ω hω using hω
+
+lemma IsKolmogorovProcess.mk_of_secondCountableTopology [SecondCountableTopology E]
+    (h_meas : ∀ s, Measurable (X s))
+    (h_kol : ∀ s t : T, ∫⁻ ω, (edist (X s ω) (X t ω)) ^ p ∂P ≤ M * edist s t ^ q)
+    (hp : 0 < p) (hq : 0 < q) :
+    IsKolmogorovProcess X P p q M where
+  measurablePair s t := by
+    suffices Measurable (fun ω ↦ (X s ω, X t ω)) by
+      rwa [(Prod.borelSpace (α := E) (β := E)).measurable_eq] at this
```
Comment (EtienneC30) [inline Mathlib/Probability/Process/Kolmogorov.lean]:
```suggestion
      rwa [Prod.borelSpace.measurable_eq] at this
```

File: Mathlib/Probability/Process/Kolmogorov.lean [hunk 6]
```diff
@@ -0,0 +1,193 @@
...
+
+lemma IsAEKolmogorovProcess.edist_eq_zero (hX : IsAEKolmogorovProcess X P p q M)
+    {s t : T} (h : edist s t = 0) :
+    ∀ᵐ ω ∂P, edist (X s ω) (X t ω) = 0 := by
+  suffices ∀ᵐ ω ∂P, edist (X s ω) (X t ω) ^ p = 0 by
+    filter_upwards [this] with ω hω
+    simpa [hX.p_pos, not_lt_of_gt hX.p_pos] using hω
+  refine (lintegral_eq_zero_iff' ?_).mp ?_
+  · change AEMeasurable ((fun x ↦ x ^ p) ∘ (fun ω ↦ edist (X s ω) (X t ω))) P
+    exact Measurable.comp_aemeasurable (by fun_prop) hX.aemeasurable_edist
```
Comment (EtienneC30) [inline Mathlib/Probability/Process/Kolmogorov.lean]:
```suggestion
  refine (lintegral_eq_zero_iff' (hX.aemeasurable_edist.pow_const p)).mp ?_
```

File: Mathlib/Probability/Process/Kolmogorov.lean [hunk 7]
```diff
@@ -0,0 +1,193 @@
...
+
+lemma IsAEKolmogorovProcess.edist_eq_zero_of_const_eq_zero (hX : IsAEKolmogorovProcess X P p q 0)
+    (s t : T) :
+    ∀ᵐ ω ∂P, edist (X s ω) (X t ω) = 0 := by
+  suffices ∀ᵐ ω ∂P, edist (X s ω) (X t ω) ^ p = 0 by
+    filter_upwards [this] with ω hω
+    simpa [hX.p_pos, not_lt_of_gt hX.p_pos] using hω
+  refine (lintegral_eq_zero_iff' ?_).mp ?_
+  · change AEMeasurable ((fun x ↦ x ^ p) ∘ (fun ω ↦ edist (X s ω) (X t ω))) P
+    exact Measurable.comp_aemeasurable (by fun_prop) hX.aemeasurable_edist
```
Comment (EtienneC30) [inline Mathlib/Probability/Process/Kolmogorov.lean]:
```suggestion
  refine (lintegral_eq_zero_iff' (hX.aemeasurable_edist.pow_const p)).mp ?_
```

**Review by EtienneC30 — COMMENTED** [review]
Thanks!

File: Mathlib/Probability/Process/Kolmogorov.lean (hunk 2 above)
Comment (RemyDegenne) [reply Mathlib/Probability/Process/Kolmogorov.lean]: I have no idea of where that comes from :)

Comment (RemyDegenne) [inline Mathlib/Probability/Process/Kolmogorov.lean]:
```suggestion
```

**Comment by EtienneC30** [comment]
Thanks!
maintainer merge

File: Mathlib/Probability/Process/Kolmogorov.lean [hunk 8]
```diff
@@ -0,0 +1,183 @@
...
+import Mathlib.MeasureTheory.Function.SpecialFunctions.Basic
+import Mathlib.MeasureTheory.Function.StronglyMeasurable.AEStronglyMeasurable
+import Mathlib.MeasureTheory.Integral.Lebesgue.Basic
+
+/-!
+# Stochastic processes satisfying the Kolmogorov condition
+
+A stochastic process `X : T → Ω → E` on an index space `T` and a measurable space `Ω`
+with measure `P` is said to satisfy the Kolmogorov condition with exponents `p, q` and constant `M`
+if for all `s, t : T`, the pair `(X s, X t)` is measurable for the borel sigma-algebra on `E × E`
```
Comment (sgouezel) [inline Mathlib/Probability/Process/Kolmogorov.lean]:
```suggestion
if for all `s, t : T`, the pair `(X s, X t)` is measurable for the Borel sigma-algebra on `E × E`
```

File: Mathlib/Probability/Process/Kolmogorov.lean [hunk 9]
```diff
@@ -0,0 +1,183 @@
...
+open scoped ENNReal NNReal
+
+namespace ProbabilityTheory
+
+variable {T Ω E : Type*} [PseudoEMetricSpace T] {mΩ : MeasurableSpace Ω} [PseudoEMetricSpace E]
+  {p q : ℝ} {M : ℝ≥0} {P : Measure Ω} {X : T → Ω → E}
+
+/-- A stochastic process `X : T → Ω → E` on an index space `T` and a measurable space `Ω`
+with measure `P` is said to satisfy the Kolmogorov condition with exponents `p, q` and constant `M`
+if for all `s, t : T`, the pair `(X s, X t)` is measurable for the borel sigma-algebra on `E × E`
```
Comment (sgouezel) [inline Mathlib/Probability/Process/Kolmogorov.lean]:
```suggestion
if for all `s, t : T`, the pair `(X s, X t)` is measurable for the Borel sigma-algebra on `E × E`
```

**Review by sgouezel — COMMENTED** [review]
Looks great, thanks!
bors d+
